US05688798
A suspension of 0.80 g (0.00412 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride in 17 ml of dimethylformamide was treated with 1.7 ml (0.0124 mol) of triethylamine and 0.87 g (0.0053 mol) of 6-methoxy-1,2,3,4-tetrahydro-isoquinoline and the mixture was stirred at room temperature under argon for 3 hours. The mixture was completely freed from the solvents and the residue was triturated in 20 ml of water. The resulting crystals were filtered off under suction, chromatographed over silica gel with dichloromethane/methanol 9:1 as the eluent and recrystallized from ethyl acetate/n-hexane. 0.26 g (22%) of 5-(6-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine was obtained as white crystals; m.p. 142°-143°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride | 0.00412 mol, 0.80 g | Cl.ClCC=1C(=NC(=NC1)C)N
reactant | triethylamine | 0.0124 mol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxy-1,2,3,4-tetrahydro-isoquinoline | 0.0053 mol, 0.87 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 5-(6-methoxy-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 0.26 g, 22% | COC=1C=C2CCN(CC2=CC1)CC=1C(=NC(=NC1)C)N | C16H20N4O
